US07217736B2
2-Methoxyethyl 5-amino-4-oxopentanoate hydrochloride [compound 20]
From 2-methoxyethanol (5.0 g; 66 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 1 h. The yield was 1.25 g (93%) of yellowish oil.

reactant | 2-methoxyethanol | 66 mmol, 5.0 g | COCCO | C3H8O2
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 2-Methoxyethyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCCOC)=O | InChI=1S/C8H15NO4.ClH/c1-12-4-5-13-8(11)3-2-7(10)6-9;/h2-6,9H2,1H3;1H
